US07125901B2
N-(4-{4-[(2-Hydroxyethyl)sulfonyl]phenyl}-1,3-thiazol-2-yl)acetamide (200 mg), Et3N (0.102 ml) and CH2Cl2 (4 ml) were combined under N2 atmosphere, and then MsCl (0.05 ml) was added to the suspension at 0° C. The reaction mixture was stirred at r.t. for 2 hours. MeOH/CHCl3 and water were added to the mixture, and the mixture was extracted. The organic layer was washed with brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residual solid (221.6 mg) was suspended in CH3CN (10 ml), and then 28% ammonia solution (0.5 ml) was added to the suspension at 0° C. The reaction mixture was stirred at r.t. for 15 hours, and concentrated in vacuo. The residue was purified by flash column chromatography over silica gel with [MeOH/CHCl3 (1:30), then NH4OH/MeOH/CHCl3 (1:10:60)] as an eluent, and triturated with EtOH/ethyl ether to give N-(4-{4-[(2-aminoethyl)sulfonyl]phenyl}-1,3-thiazol-2-yl)acetamide (60.4 mg) as an off-white solid.

reactant | N-(4-{4-[(2-Hydroxyethyl)sulfonyl]phenyl}-1,3-thiazol-2-yl)acetamide | 200 mg | OCCS(=O)(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C13H14N2O4S2
reactant | Et3N | 0.102 ml | CCN(CC)CC | C6H15N
reactant | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
reactant | MsCl | 0.05 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(4-{4-[(2-aminoethyl)sulfonyl]phenyl}-1,3-thiazol-2-yl)acetamide | 60.4 mg | NCCS(=O)(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(C)=O | C13H15N3O3S2
